* Z:\mnt\design.r\spice\examples\1466L.asc
V1 +V 0 3.3
R1 N001 IN 29.5K
V2 IN 0 1.65 AC 1
C1 N002 N001 10000p
R2 N003 N002 8.6K
C2 N004 N003 10000p
R3 N005 N004 11.8K
C3 N006 N005 10000p
R4 N007 N006 21.5K
C4 OUT N007 10000p
R5 N008 +V 10K
R6 N008 0 10K
R7 OUT N009 11.8K
XU1 N004 N001 +V 0 N002 LT1466
XU2 N008 N003 +V 0 N004 LT1466
XU3 N009 N005 +V 0 N006 LT1466
XU4 N008 N007 +V 0 OUT LT1466
.ac oct 100 10 10K
.options gminsteps=0 srcsteps=0
* 4-Pole 1KHz, 3.3V Single Supply, State Variable Filter
.lib LTC.lib
.backanno
.end
